* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.023707e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.769491e-01)*u*u + (2.749437e+00)*u + (1.347382e+01)),1.143794e+01),1.272290e+02)}
.param L_a = {min(max(exp((1.417878e-01)*u*u + (2.106118e+00)*u + (-4.851080e+00)),2.326760e-06),2.406888e-05)}
.param R_pl = {min(max(exp((9.865508e-13)*u*u + (1.892035e-11)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),6.666667e-13),1.500000e-12)}
.param G0 = {((2.025301e-04)*u*u + (4.721027e-03)*u + (2.782683e-02))}
.param G1 = {((6.360317e-05)*u*u + (6.972497e-04)*u + (-3.287653e-04))}
.param w1 = {min(max(exp((3.989357e-02)*u*u + (7.492133e-01)*u + (1.902817e+01)),3.651183e+06),8.864399e+06)}
.param G2 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param G3 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param pcb0 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param pcb1 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.324612e+05),2.980376e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),6.666667e-01),1.500000e+00)}
.param gnw = {min(max(exp((-6.854036e+00)*u*u + (-1.368002e+02)*u + (-6.861171e+02)),6.931995e-11),3.530711e-04)}
.param gn1 = {min(max(exp((-9.991710e+00)*u*u + (-1.928496e+02)*u + (-9.469529e+02)),5.179365e-16),2.108568e-09)}
.param gn2 = {min(max(exp((-1.796665e-01)*u*u + (-2.807131e+00)*u + (-1.065709e+01)),1.785024e-01),1.956915e+00)}
.param gn3 = {min(max(exp((-1.841195e-01)*u*u + (-2.883311e+00)*u + (-1.229613e+01)),4.692339e-02),5.261583e-01)}
.param gn4 = {min(max(exp((-1.659086e-01)*u*u + (-2.572329e+00)*u + (-1.218008e+01)),1.535916e-02),1.568200e-01)}
.param gn5 = {min(max(exp((-4.314887e+00)*u*u + (-7.437066e+01)*u + (-3.234156e+02)),2.851581e-11),4.964983e-02)}
.param gn6 = {min(max(exp((-1.682321e-01)*u*u + (-2.616410e+00)*u + (-1.308339e+01)),7.639722e-03),7.806778e-02)}
.param vreg = {((1.400092e-04)*u*u + (1.155014e-03)*u + (9.013981e-01))}
.param COUT=9.964926e-10 ESR=5.000090e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-5.653363e-03,1.000000e-06,-1.943212e-03,1.300000e-05,-8.314499e-04,2.500000e-05,-1.062939e-04,3.700000e-05,4.509781e-04,4.900000e-05,9.140981e-04,6.100000e-05,1.317054e-03,7.300000e-05,1.678393e-03,8.500000e-05,2.009391e-03,9.700000e-05,2.317439e-03,1.090000e-04,2.607665e-03,1.210000e-04,2.883778e-03,1.330000e-04,3.148559e-03,1.450000e-04,3.404142e-03,1.570000e-04,3.652210e-03,1.690000e-04,3.894106e-03,1.810000e-04,4.130925e-03,1.930000e-04,4.363563e-03,2.050000e-04,4.592769e-03,2.170000e-04,4.819168e-03,2.290000e-04,5.043290e-03,2.410000e-04,5.265585e-03,2.530000e-04,5.486440e-03,2.650000e-04,5.706187e-03,2.770000e-04,5.925115e-03,2.890000e-04,6.143474e-03,3.010000e-04,6.361485e-03,3.130000e-04,6.579342e-03,3.250000e-04,6.797216e-03,3.370000e-04,7.015260e-03,3.490000e-04,7.233611e-03,3.610000e-04,7.452393e-03,3.730000e-04,7.671717e-03,3.850000e-04,7.891686e-03,3.970000e-04,8.112394e-03,4.090000e-04,8.333928e-03,4.210000e-04,8.556371e-03,4.330000e-04,8.779801e-03,4.450000e-04,9.004291e-03,4.570000e-04,9.229914e-03,4.690000e-04,9.456741e-03,4.810000e-04,9.684841e-03,4.930000e-04,9.835844e-03,5.010000e-04,1.022045e-02,5.210000e-04,1.060925e-02,5.410000e-04,1.100260e-02,5.610000e-04,1.140087e-02,5.810000e-04,1.180449e-02,6.010000e-04,1.221396e-02,6.210000e-04,1.262983e-02,6.410000e-04,1.305275e-02,6.610000e-04,1.348350e-02,6.810000e-04,1.392302e-02,7.010000e-04,1.437245e-02,7.210000e-04,1.483319e-02,7.410000e-04,1.530699e-02,7.610000e-04,1.579609e-02,7.810000e-04,1.630333e-02,8.010000e-04,1.683244e-02,8.210000e-04,1.738830e-02,8.410000e-04,1.797742e-02,8.610000e-04,1.860850e-02,8.810000e-04,1.929315e-02,9.010000e-04,2.004665e-02,9.210000e-04,2.088852e-02,9.410000e-04,2.184230e-02,9.610000e-04,2.293363e-02,9.810000e-04,2.418625e-02,1.001000e-03,2.561647e-02,1.021000e-03,2.722907e-02,1.041000e-03,2.901695e-02,1.061000e-03,3.096466e-02,1.081000e-03,3.305300e-02,1.101000e-03,3.526262e-02,1.121000e-03,3.757589e-02,1.141000e-03,3.997761e-02,1.161000e-03,4.245507e-02,1.181000e-03,4.499777e-02,1.201000e-03,4.759708e-02,1.221000e-03,5.024589e-02,1.241000e-03,5.293837e-02,1.261000e-03,5.566967e-02,1.281000e-03,5.843577e-02,1.301000e-03,6.123328e-02,1.321000e-03,6.405938e-02,1.341000e-03,6.691164e-02,1.361000e-03,6.978801e-02,1.381000e-03,7.268674e-02,1.401000e-03,7.560630e-02,1.421000e-03,7.854538e-02,1.441000e-03,8.150283e-02,1.461000e-03,8.447765e-02,1.481000e-03,8.746897e-02,1.501000e-03,9.047602e-02,1.521000e-03,9.349811e-02,1.541000e-03,9.653463e-02,1.561000e-03,9.958506e-02,1.581000e-03,1.026489e-01,1.601000e-03,1.057258e-01,1.621000e-03,1.088152e-01,1.641000e-03,1.119170e-01,1.661000e-03,1.150307e-01,1.681000e-03,1.181561e-01,1.701000e-03,1.212930e-01,1.721000e-03,1.244411e-01,1.741000e-03,1.276003e-01,1.761000e-03,1.307703e-01,1.781000e-03,1.339511e-01,1.801000e-03,1.371425e-01,1.821000e-03,1.403444e-01,1.841000e-03,1.435567e-01,1.861000e-03,1.467793e-01,1.881000e-03,1.500122e-01,1.901000e-03,1.532553e-01,1.921000e-03,1.565085e-01,1.941000e-03,1.597720e-01,1.961000e-03,1.630455e-01,1.981000e-03,1.663292e-01,2.001000e-03,1.696231e-01,2.021000e-03,1.729272e-01,2.041000e-03,1.762416e-01,2.061000e-03,1.795663e-01,2.081000e-03,1.829014e-01,2.101000e-03,1.862471e-01,2.121000e-03,1.896034e-01,2.141000e-03,1.929704e-01,2.161000e-03,1.963484e-01,2.181000e-03,1.997374e-01,2.201000e-03,2.031378e-01,2.221000e-03,2.065496e-01,2.241000e-03,2.099732e-01,2.261000e-03,2.134088e-01,2.281000e-03,2.168567e-01,2.301000e-03,2.203171e-01,2.321000e-03,2.237905e-01,2.341000e-03,2.272772e-01,2.361000e-03,2.307776e-01,2.381000e-03,2.342922e-01,2.401000e-03,2.378213e-01,2.421000e-03,2.413655e-01,2.441000e-03,2.449254e-01,2.461000e-03,2.485014e-01,2.481000e-03,2.520942e-01,2.501000e-03,2.557044e-01,2.521000e-03,2.593327e-01,2.541000e-03,2.629797e-01,2.561000e-03,2.666464e-01,2.581000e-03,2.703333e-01,2.601000e-03,2.740414e-01,2.621000e-03,2.777716e-01,2.641000e-03,2.815246e-01,2.661000e-03,2.853016e-01,2.681000e-03,2.891035e-01,2.701000e-03,2.929314e-01,2.721000e-03,2.967864e-01,2.741000e-03,3.006696e-01,2.761000e-03,3.045823e-01,2.781000e-03,3.085258e-01,2.801000e-03,3.125014e-01,2.821000e-03,3.165107e-01,2.841000e-03,3.205550e-01,2.861000e-03,3.246360e-01,2.881000e-03,3.287555e-01,2.901000e-03,3.329153e-01,2.921000e-03,3.371173e-01,2.941000e-03,3.413636e-01,2.961000e-03,3.456564e-01,2.981000e-03,3.499982e-01,3.001000e-03,3.543914e-01,3.021000e-03,3.588389e-01,3.041000e-03,3.633437e-01,3.061000e-03,3.679090e-01,3.081000e-03,3.725383e-01,3.101000e-03,3.772354e-01,3.121000e-03,3.820046e-01,3.141000e-03,3.868503e-01,3.161000e-03,3.917775e-01,3.181000e-03,3.967916e-01,3.201000e-03,4.018987e-01,3.221000e-03,4.071054e-01,3.241000e-03,4.124188e-01,3.261000e-03,4.178470e-01,3.281000e-03,4.233989e-01,3.301000e-03,4.290843e-01,3.321000e-03,4.349143e-01,3.341000e-03,4.409009e-01,3.361000e-03,4.471489e-01,3.381000e-03,4.534994e-01,3.401000e-03,4.600531e-01,3.421000e-03,4.668288e-01,3.441000e-03,4.738476e-01,3.461000e-03,4.811329e-01,3.481000e-03,4.887107e-01,3.501000e-03,4.966095e-01,3.521000e-03,5.048605e-01,3.541000e-03,5.134978e-01,3.561000e-03,5.225577e-01,3.581000e-03,5.320786e-01,3.601000e-03,5.421000e-01,3.621000e-03,5.526614e-01,3.641000e-03,5.638011e-01,3.661000e-03,5.755541e-01,3.681000e-03,5.879501e-01,3.701000e-03,6.010121e-01,3.721000e-03,6.147543e-01,3.741000e-03,6.291816e-01,3.761000e-03,6.442898e-01,3.781000e-03,6.600661e-01,3.801000e-03,6.764912e-01,3.821000e-03,6.935409e-01,3.841000e-03,7.111887e-01,3.861000e-03,7.294073e-01,3.881000e-03,7.481699e-01,3.901000e-03,7.674512e-01,3.921000e-03,7.872277e-01,3.941000e-03,8.074781e-01,3.961000e-03,8.281827e-01,3.981000e-03,8.493233e-01,4.001000e-03,8.708831e-01,4.021000e-03,8.928460e-01,4.041000e-03,9.151966e-01,4.061000e-03,9.379200e-01,4.081000e-03,9.610017e-01,4.101000e-03,9.844276e-01,4.121000e-03,1.008184e+00,4.141000e-03,1.032256e+00,4.161000e-03,1.056483e+00,4.181000e-03,1.081154e+00,4.201000e-03,1.106103e+00,4.221000e-03,1.131316e+00,4.241000e-03,1.156780e+00,4.261000e-03,1.182483e+00,4.281000e-03,1.208413e+00,4.301000e-03,1.234559e+00,4.321000e-03,1.260909e+00,4.341000e-03,1.287452e+00,4.361000e-03,1.314178e+00,4.381000e-03,1.341077e+00,4.401000e-03,1.368138e+00,4.421000e-03,1.395353e+00,4.441000e-03,1.422712e+00,4.461000e-03,1.450207e+00,4.481000e-03,1.477829e+00,4.501000e-03,1.505571e+00,4.521000e-03,1.533425e+00,4.541000e-03,1.561384e+00,4.561000e-03,1.589440e+00,4.581000e-03,1.617588e+00,4.601000e-03,1.645820e+00,4.621000e-03,1.674132e+00,4.641000e-03,1.702517e+00,4.661000e-03,1.730969e+00,4.681000e-03,1.759485e+00,4.701000e-03,1.788058e+00,4.721000e-03,1.816684e+00,4.741000e-03,1.845359e+00,4.761000e-03,1.874078e+00,4.781000e-03,1.902838e+00,4.801000e-03,1.931634e+00,4.821000e-03,1.960463e+00,4.841000e-03,1.989322e+00,4.861000e-03,2.018207e+00,4.881000e-03,2.047115e+00,4.901000e-03,2.076044e+00,4.921000e-03,2.104990e+00,4.941000e-03,2.133951e+00,4.961000e-03,2.162924e+00,4.981000e-03,2.191906e+00,5.001000e-03,2.220897e+00,5.021000e-03,2.249892e+00,5.041000e-03,2.278891e+00,5.061000e-03,2.307892e+00,5.081000e-03,2.336892e+00,5.101000e-03,2.365890e+00,5.121000e-03,2.394883e+00,5.141000e-03,2.423872e+00,5.161000e-03,2.452853e+00,5.181000e-03,2.481826e+00,5.201000e-03,2.510789e+00,5.221000e-03,2.539740e+00,5.241000e-03,2.568680e+00,5.261000e-03,2.597606e+00,5.281000e-03,2.626517e+00,5.301000e-03,2.655413e+00,5.321000e-03,2.684292e+00,5.341000e-03,2.713153e+00,5.361000e-03,2.741996e+00,5.381000e-03,2.770820e+00,5.401000e-03,2.799623e+00,5.421000e-03,2.828405e+00,5.441000e-03,2.857166e+00,5.461000e-03,2.885904e+00,5.481000e-03,2.914619e+00,5.501000e-03,2.943310e+00,5.521000e-03,2.971977e+00,5.541000e-03,3.000619e+00,5.561000e-03,3.029236e+00,5.581000e-03,3.057826e+00,5.601000e-03,3.086391e+00,5.621000e-03,3.114928e+00,5.641000e-03,3.143439e+00,5.661000e-03,3.171921e+00,5.681000e-03,3.200376e+00,5.701000e-03,3.228802e+00,5.721000e-03,3.257199e+00,5.741000e-03,3.285568e+00,5.761000e-03,3.313906e+00,5.781000e-03,3.342216e+00,5.801000e-03,3.370495e+00,5.821000e-03,3.398744e+00,5.841000e-03,3.426962e+00,5.861000e-03,3.455150e+00,5.881000e-03,3.483307e+00,5.901000e-03,3.511432e+00,5.921000e-03,3.539527e+00,5.941000e-03,3.567590e+00,5.961000e-03,3.595621e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 3.404185e-08        $ corner 4.675 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 9.927200e-09        $ corner 16.03 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 8.543917e-10        $ corner 186.3 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 7.684787e-11        $ corner 2071 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 8.054857e-12        $ corner 1.976e+04 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 2.351824e-13        $ corner 6.767e+05 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

